US07482337B2
1-[(1-methyl-2,2-dioxo-1H-benzo[c][1,2]thiazin-4-yl)methyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-(3-amino-piperidin-1-yl)-xanthine
3.5 ml isopropanolic hydrochloric acid (5-6 M) are added to 340 mg of 1-[(1-methyl-2,2-dioxo-1H-benzo[c][1,2]thiazin-4-yl)methyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine in 15 ml methylene chloride and the reaction mixture is stirred for three hours at ambient temperature. For working up it is diluted with water and methylene chloride and combined with 18 ml 1N sodium hydroxide solution. The aqueous phase is extracted with methylene chloride and the combined organic phases are washed with water, dried over magnesium sulphate and evaporated down. The yellowish, foamy flask residue is stirred with tert.-butyl-methylether and a little diethyl ether, the light-coloured precipitate formed is suction filtered and dried at 60° C. in the drying gun.

reactant | hydrochloric acid | 5-6 M, 3.5 ml | Cl | ClH
reactant | 1-[(1-methyl-2,2-dioxo-1H-benzo[c][1,2]thiazin-4-yl)methyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | 340 mg | CN1S(C=C(C2=C1C=CC=C2)CN2C(=O)N(C=1N=C(N(C1C2=O)CC=C(C)C)N2CC(CCC2)NC(=O)OC(C)(C)C)C)(=O)=O | C31H41N7O6S
reactant | sodium hydroxide | 1N, 18 ml | [OH-].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-[(1-methyl-2,2-dioxo-1H-benzo[c][1,2]thiazin-4-yl)methyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-(3-amino-piperidin-1-yl)-xanthine | CN1S(C=C(C2=C1C=CC=C2)CN2C(=O)N(C=1N=C(N(C1C2=O)CC=C(C)C)N2CC(CCC2)N)C)(=O)=O | C26H33N7O4S
